US05244910
A. 1-Azido-2-(benyloxycarbonylamino)-2-methylbutane
2-(Benyloxycarbonylamino)-2-methyl-1-butanol (1.358 g, 5.722 mmol) and triphenylphosphine (1.800 g, 6.86 mmol) were dissolved in 10 mL CH2Cl2, and the resulting solution was cooled to 0° C. A solution of hydrazoic acid (prepared from sodium azide (1.30 g, 20.0 mmol), 0.533 mL concentrated sulfuric acid and 1.3 mL water) in 20 mL CH2Cl2 was passed through a plug of MgSO4, the filtrate was added to the above alcohol solution, then diisopropyl azodicarboxylate (1.35 mL, 1.40 g, 6.91 mmol) was added dropwise over 3 min. The reaction mixture was stirred at 0° C. for 1 h, then at room temperature for 5 h. The mixture was concentrated in vacuo, and the residue was applied to 300 g of silica gel in a fritted disc funnel and eluted with 3×500 mL of 10% EtOAc-hexane. The second fraction contained pure desired azide (0.822 g, 3.13 mmol, 55%) as a colorless oil: Rf 0.17 (10% EtOAc-hexane); 1H NMR (CDCl3) δ 1.33 (s, 6 H), 2.02 (bt, J=7.5 Hz, 2 H), 3.32 (bt, J=7.5 Hz, 2 H), 4.74 (br s, 1 H), 5.05 (s, 2 H), 7.3-7.4 (m, 5 H); MS m/e 263 ((M+H)+), 280 (M+NH4)+).

reactant | 2-(Benyloxycarbonylamino)-2-methyl-1-butanol | 5.722 mmol, 1.358 g | C(C1=CC=CC=C1)OC(=O)NC(CO)(CC)C | C13H19NO3
reactant | triphenylphosphine | 6.86 mmol, 1.800 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrazoic acid | 20.0 mmol, 0.533 mL, 1.30 g | N=[N+]=[N-] | HN3
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | diisopropyl azodicarboxylate | 6.91 mmol, 1.35 mL, 1.40 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | azide | 3.13 mmol, 0.822 g | [N-]=[N+]=[N-]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 1-Azido-2-(benyloxycarbonylamino)-2-methylbutane | N(=[N+]=[N-])CC(CC)(C)NC(=O)OCC1=CC=CC=C1 | C13H18N4O2
